US09334366B2
3 g (15 mmol) of N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (EDC hydrochloride) are added to a solution of 3.1 g (15 mmol) of 6-chlorohexyl(2E)-3-(4-hydroxyphenyl)prop-2-enoate, 0.186 g (1.5 mmol) of 4-dimethylaminopyridine in 70 mL of dichloromethane at 0° C. To this mixture, 5.1 g (15 mmol) of 4-(2-methoxyethoxy)benzoic acid in 40 mL of dichloromethane are added at 10° C. The solution is allowed to stir at room temperature for 22 hours. The reaction mixture is then partitioned between dichloromethane and water. The organic phase is washed repeatedly with water, dried over sodium sulphate, filtered and concentrated by rotary evaporation. Chromatography of the residue using cyclohexane: ethylacetate 4:1 yielded 5.3 g (73%) of pure 4-{(1E)-3-[(6-chlorohexyl)oxy]-3-oxoprop-1-enyl}phenyl 4-(2-methoxyethoxy)benzoate as a white powder.

reactant | N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 15 mmol, 3 g | Cl.CN(CCCN=C=NCC)C
reactant | 6-chlorohexyl(2E)-3-(4-hydroxyphenyl)prop-2-enoate | 15 mmol, 3.1 g | OC1=CC=C(C=C1)/C=C/C(=O)OCCCCCCCl | C15H19ClO3
reactant | 4-(2-methoxyethoxy)benzoic acid | 15 mmol, 5.1 g | COCCOC1=CC=C(C(=O)O)C=C1 | C10H12O4
catalyst | 4-dimethylaminopyridine | 1.5 mmol, 0.186 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 4-{(1E)-3-[(6-chlorohexyl)oxy]-3-oxoprop-1-enyl}phenyl 4-(2-methoxyethoxy)benzoate | 5.3 g, 73% | COCCOC1=CC=C(C(=O)OC2=CC=C(C=C2)\C=C\C(=O)OCCCCCCCl)C=C1 | C25H29ClO6
